US05055451
4-Methoxycarbonyl-benzoic acid (from Preparation 11) (5.0 g, 28 mmol) was dissolved in 100 mL of anhydrous dichloromethane. After the addition of DMAP (3.39 g, 28 mmol) and benzenesulfonamide (4.36 g, 28 mmol), EDCI (5.85 g, 31 mmol) was gradually added to the stirred mixture. After 18 hours at room temperature, rotary evaporation of the mixture gave a residue which was mixed with ethyl acetate and 1 N HCl. The organic phase was washed with water (1×) and brine (2×), dried (Na2SO4), rotary evaporated, and dried at high volume to afford 8.7 g (98%) of methyl 4-phenylsulfonamido-carbonyl-benzoate (4-C6H5SO2 --NHCO--C6H4 --COOCH3) as a white solid. A solution of this material (3.2 g, 10 mmol) in 130 mL of dioxane/water (3:1) was cooled to 0° C. 1 N Sodium hydroxide was added dropwise, followed by vigorous stirring at 0° C. for 20 minutes, then at room temperature for 2 hours. The mixture was again cooled to 0° C., and then acidified to pH 2 by gradual addition of 1 N HCl. The mixture was rotary evaporated, and the aqueous residue was extracted with ethyl acetate (3×). The combined extracts were washed with brine, dried (Na2SO4), rotary evaporated, and dried at high vacuum to afford the product (4-C6H5SO2NHCO--C6H4 --COOH), m.p. 267°-270° C.

reactant | 4-Methoxycarbonyl-benzoic acid | 28 mmol, 5.0 g | COC(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O4
reactant | benzenesulfonamide | 28 mmol, 4.36 g | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | EDCI | 31 mmol, 5.85 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HCl | 1 N | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | DMAP | 28 mmol, 3.39 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | methyl 4-phenylsulfonamido-carbonyl-benzoate | 8.7 g, 98% | C1(=CC=CC=C1)S(=O)(=O)NC1=CC(C(C(=O)OC)C=C1)=C=O | C15H13NO5S
